US09334278B2
A mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (150 mg, 351 mol), 3-(methylsulfonyl)aniline hydrochloride (109 mg, 526 mol), BINAP (10.9 mg, 17.5 mol), palladium (II) acetate (19.7 mg, 87.7 mol) and sodium tert-butoxide (101 mg, 1.05 mmol, Eq: 3) in DMF (1 mL) and toluene (500 μL) was heated in a microwave at 140° C. for 20 min. The reaction mixture was diluted with water then extracted into ethyl acetate (3×). The combined organic extracts were washed with brine then dried over magnesium sulfate. Purification by chromatography (silica, 20-50% ethyl acetate in hexanes) gave N-tert-butyl-2-(3-(methylsulfonyl)phenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (61 mg, 118 mol, 34%) as a brown gum. (EI/CI) m/z: 518.3 [M+H].

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 351 mol, 150 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | 3-(methylsulfonyl)aniline hydrochloride | 526 mol, 109 mg | Cl.CS(=O)(=O)C=1C=C(N)C=CC1
reactant | BINAP | 17.5 mol, 10.9 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | toluene | 500 μL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | palladium (II) acetate | 87.7 mol, 19.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | sodium tert-butoxide | 1.05 mmol, 101 mg | CC(C)([O-])C.[Na+]
product | N-tert-butyl-2-(3-(methylsulfonyl)phenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 118 mol, 61 mg, 34% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=CC(=CC=C2)S(=O)(=O)C)COCC[Si](C)(C)C | C24H35N5O4SSi
